US05219868
A mixture of 0.70 g of 1-(4-fluorophenyliminomethyl)-2-nitroiminoimidazolidine, 0.45 g of 2-chloro-5-chloromethylpyridine, 0.77 g of potassium carbonate and 5 ml of dimethylsulfoxide were agitated at 70° C. for 1 hour. The reaction mixture was, as it is, subjected to purification by column chromatography [silica gel, eluent: hexane-ethyl acetate (1:2)] to give 0.45 g of 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino-3-(4-fluorophenyliminomethyl)imidazolidine.

reactant | 1-(4-fluorophenyliminomethyl)-2-nitroiminoimidazolidine | 0.70 g | FC1=CC=C(C=C1)N=CN1C(NCC1)=N[N+](=O)[O-] | C10H10FN5O2
reactant | 2-chloro-5-chloromethylpyridine | 0.45 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | potassium carbonate | 0.77 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino-3-(4-fluorophenyliminomethyl)imidazolidine | 0.45 g | ClC1=NC=C(C=C1)CN1C(N(CC1)C=NC1=CC=C(C=C1)F)=N[N+](=O)[O-] | C16H14ClFN6O2
